US04956507
4,4'-difluorobiphenyl has heretofore been prepared by a process utilizing a Grignard coupling reaction. In accordance with the prior process, p-halofluorobenzene is reacted with magnesium in a solvent to form halomagnesiumfluorobenzene, the Grignard reagent. The Grignard reagent is then reacted with additional p-halofluorobenzene (the coupling reagent) in the presence of a catalyst comprised of palladium chloride or palladium supported on charcoal. This prior process results in a yield of about 80% 4-4'-difluorobiphenyl when the Grignard reagent is formed from pbromofluorobenzene and the coupling reagent is p-iodofluorobenzene. In addition, about 8% of a difluoroterphenyl byproduct is formed in the reaction. Thus, the heretofore utilized process produces a relatively low yield of 4,4'-difluorobiphenyl. In addition, the process is disadvantageous in that p-iodofluorobenzene is expensive, and a high molar ratio of the palladium chloride or palladium/charcoal catalyst is required. While p-bromofluorobenzene is much less expensive than p-iodofluorobenzene, when p-bromofluorobenzene is substituted for p-iodofluorobenzene in the coupling reaction, a very low yield of 4,4'-difluorobiphenyl is obtained.

reactant | p-iodofluorobenzene | IC1=CC=C(C=C1)F | C6H4FI
reactant | p-bromofluorobenzene | BrC1=CC=C(C=C1)F | C6H4BrF
catalyst | palladium/charcoal | [Pd] | Pd
catalyst | palladium chloride | [Pd](Cl)Cl
product | 4,4'-difluorobiphenyl | FC1=CC=C(C=C1)C1=CC=C(C=C1)F | C12H8F2
